US07728022B2
(2E)-3-(2,4-dichlorophenyl)prop-2-en-1-ol
To a stirred solution of ethyl (2E)-3-(2,4-dichlorophenyl)acrylate (11.3 g, 46 mmol) in tetrahydrofuran at −10° C. was added diisobutylaluminium hydride (1.0 M in toluene, 100 ml, 0.11 mol) dropwise. After addition was complete, the reaction was cooled to −78° C. and methanol (40 ml) added dropwise. Ammonium chloride (sat. aq., 70 ml) was then added and the reaction allowed to warm to 0° C. After 15 min at 0° C. the reaction was allowed to warm to room temperature and stirred for 1 h. The mixture was then filtered through a pad of hyflo supercel (washing well with ethyl acetate) and the concentrated to give the title compound (7.8 g) as pale yellow crystals. 1H NMR δ (ppm)(CDCl3): 7.44 (1 H, d, J=8.4 Hz), 7.36 (1 H, d, J=2.0 Hz), 7.19 (1 H, dd, J=2.0, 8.5 Hz), 6.93 (1 H, d, J=15.8 Hz), 6.36-6.28 (1 H, m), 4.35 (2 H, d, J=5.4 Hz), 1.84 (1 H, s).

reactant | ethyl (2E)-3-(2,4-dichlorophenyl)acrylate | 46 mmol, 11.3 g | ClC1=C(C=CC(=C1)Cl)/C=C/C(=O)OCC | C11H10Cl2O2
reactant | diisobutylaluminium hydride | 0.11 mol, 1.0 M, 100 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 40 ml | CO | CH4O
reactant | Ammonium chloride | 70 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2E)-3-(2,4-dichlorophenyl)prop-2-en-1-ol | 7.8 g | ClC1=C(C=CC(=C1)Cl)/C=C/CO | C9H8Cl2O
